US04049796
Preparation of Gentamicin A Sulfate
In like manner, the sulfate salt of gentamicin B, gentamicin B1 and gentamicin X may be prepared. In order to prepare sulfate salts of a mixture of gentamicin A, B, B1 and X, the lyophilized or spray dried product of Example 2 is treated as described in this example.

reactant | gentamicin B | C[C@@]1(CO[C@@H]([C@@H]([C@H]1NC)O)O[C@H]2[C@@H](C[C@@H]([C@H]([C@@H]2O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CN)O)O)O)N)N)O | C19H38N4O10
reactant | gentamicin B1 | CC(C1C(C(C(C(O1)OC2C(CC(C(C2O)OC3C(C(C(CO3)(C)O)NC)O)N)N)O)O)O)N | C20H40N4O10
reactant | gentamicin X | C[C@@]1(CO[C@@H]([C@@H]([C@H]1NC)O)O[C@H]2[C@@H](C[C@@H]([C@H]([C@@H]2O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)N)N)N)O | C19H38N4O10
reactant | gentamicin A | CN[C@H]1[C@@H](CO[C@@H](C1O)OC2[C@@H](CC([C@H]([C@@H]2O)O[C@@H]3C([C@H]([C@@H](C(O3)CO)O)O)NO)N)N)O | C18H36N4O11
product | Gentamicin A Sulfate | CNC1C(COC(C1O)OC2C(CC(C(C2O)OC3C(C(C(C(O3)CO)O)O)N)N)N)O | C18H36N4O10
